US04190579
Preparation of N-benzhydryl-2-azetidinone
To a solution of lithium diisopropylamide (2.2 mmol) in ca. 15 ml tetrahydrofuran cooled to -78° was added, dropwise with stirring, 0.54 g (2 mmol) of N-benzhydryl-2-carboethoxyazetidine dissolved in 4 ml tetrahydrofuran. After stirring for 20 minutes at this temperature, 0.40 g (2.7 mmol) tert-butyldimethyl chlorosilane in 2 ml tetrahydrofuran was added dropwise to the orange solution over a 2 minute period. Stirring was continued at -78° for 5 minutes and the cooling bath was then removed. The solution was warmed slowly to 0° where it was maintained for 30 minutes, and then warmed to room temperature for 30 minutes with additional stirring. Photooxygenation included transferring the resulting solution to an oxygenation well containing Rose Bengal (10 mg) dissolved in 50 ml tetrahydrofuran. The solution was diluted with an equal volume of pentane, cooled to 0° and photooxygenated internally. Uptake of 1 equivalent (45 ml) of oxygen occurred over a 5 minute period. The solution was poured into 50 ml of a saturated ammonium chloride solution (pH 8), diluted and extracted several times with ether. The combined extracts were washed twice with saturated sodium chloride solution and dried over anhydrous sodium sulfate. Removal of solvents by filtration and rotary evaporation gave an orange oil which was applied to a 10×2 cm neutral alumina column packed as a slurry in hexane. Elution with 2:1 hexane-ethyl acetate gave 0.37 g of pale yellow oil, which by NMR analysis indicated a 55% yield of the desired beta-lactam. Crystallization of some of the product was effected by dissolving the oil in 0.5 ml of tetrahydrofuran and adding the solution dropwise to 100 ml of pentane cooled to -78°. Upon warming to room temperature, most of the white solid went back into solution. The small quantity of crystalline beta-lactam so obtained was dried under a high vacuum overnight: m.p. 63°-65°; IR (oil) cm-1 1740, 1380, 1250, 1050, 760, 700; NMR(CDCl3) delta 7.25 (10H, m), 6.15 (1H, s), 3.17 (2H, t, J=4 Hz), 2.90 (2H, t, J=4 Hz); mass spectrum m/e 237 (M+).

reactant | lithium diisopropylamide | 2.2 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-benzhydryl-2-carboethoxyazetidine | 2 mmol, 0.54 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)C(=O)OCC | C19H21NO2
reactant | tert-butyldimethyl chlorosilane | 2.7 mmol, 0.40 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | oxygen | 45 ml, 1 equivalent | O=O | O2
reactant | ammonium chloride | 50 ml, pH 8 | [Cl-].[NH4+]
solvent | tetrahydrofuran | ca. 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | N-benzhydryl-2-azetidinone | 0.37 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)=O | C16H15NO
